US07238228B2
Preparation of 3-(quinolin-5-ylamino)-butyric Acid
A mixture of 5-aminoquinoline (9.9 g, 0.069 mol) and crotonic acid (8.9 g, 0.103 mol) in toluene (35 ml) was stirred at reflux for 48 h. The reaction mixture was allowed to cool to ambient, added to water (500 ml) and the pH adjusted to 9 to 10 by the addition of 2N sodium hydroxide. The reaction mixture was screened and the filtrate extracted with diethyl ether (3×100 ml). The pH of the aqueous layer was first adjusted to pH2 with concentrated HCl and then to pH7 with calcium hydroxide. The precipitate which formed was collected by filtration, washed first with water (200 ml) and then with acetone (200 ml) before being dried to give 8.1 g of a cream solid.

reactant | 5-aminoquinoline | 0.069 mol, 9.9 g | NC1=C2C=CC=NC2=CC=C1 | C9H8N2
reactant | crotonic acid | 0.103 mol, 8.9 g | C(\C=C\C)(=O)O | C4H6O2
reactant | water | 500 ml | O | H2O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(quinolin-5-ylamino)-butyric Acid | 8.1 g | N1=CC=CC2=C(C=CC=C12)NC(CC(=O)O)C | C13H14N2O2
